US07601714B2
N-[1-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)azetidin-3-yl]benzamide
N4-{[Trans-4-(3-aminoazetidin-1-yl)cyclohexyl]methyl}-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine (20 mg, 0.04 mmol) was dissolved in THF (1.0 mL). To this solution was added benzoic acid (7.3 mg, 0.06 mmol), Polystyrene-linked Carbodiimide (PS-CDI) (47 mg, 0.06 mmol) followed by triethylamine (0.084 mL, 0.06 mmol). The reaction was allowed to stir at 25° C. for 18 h. The reaction was filtered to remove the PS-CDI and the volatiles were removed in vacuo. The crude was redissolved in CH2Cl2 and extracted with 10% aqueous NaHCO3. The aqueous phase was separated and extracted two more times with CH2Cl2. The organic layers were combined, dried (Na2SO4), decanted and concentrated. The resultant residue was purified via flash chromatography (SiO2, 10-30% (2:18:80, NH4OH:CH3OH:CH2Cl2)—CH2Cl2) to afford 18 mg (74%) of the target compound, m/z 600.34 (M+1)+.

reactant | N4-{[Trans-4-(3-aminoazetidin-1-yl)cyclohexyl]methyl}-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 0.04 mmol, 20 mg | NC1CN(C1)[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C22H28F3N7O3
reactant | benzoic acid | 0.06 mmol, 7.3 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | Carbodiimide | 0.06 mmol, 47 mg | N=C=N | CH2N2
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | triethylamine | 0.06 mmol, 0.084 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | N-[1-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)azetidin-3-yl]benzamide | 18 mg, 74% | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)N1CC(C1)NC(C1=CC=CC=C1)=O | C29H32F3N7O4
